US08461175B2
A 150 ml round-bottomed flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 780 mg of 3-bromo-5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde in 20 ml of DMF, 2.5 ml of diisopropylethylamine and 0.75 ml of 2-(trimethylsilyl)ethoxymethyl chloride. The mixture is stirred at RT for 24 h and then poured into water, extracted with AcOEt, washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. This gives 1.18 g of a crude product, which is purified by chromatography on silica gel (20-45 μm), eluting with a mixture of DCM and methanol (99.5/0.5 by vol.), to give on one hand 545 mg of 3-bromo-5-(2,6-difluorophenyl)-1-(2-trimethylsilanylethoxymethyl)-1H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde in the form of a cream solid: MS (E/I): m/z=388 (M+); 1H NMR: −0.13 (s, 9H); 0.86 (t, J=7.8 Hz, 2H); 3.66 (t, J=7.8 Hz, 2H); 618 (s, 2H); 7.43 (t, J=7.9 Hz, 2H); 7.79 (m, 1H); 8.39 (broad s, 1H) 8.48 (dd, J=8.3, 1.5 Hz, 1H) 8.80 (d, J=8.3 Hz, 1H) 10.17 (s, 1H), and on the other hand 354 mg of 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-2H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde (cream solid). MS (E/I): m/z=388 (M+); 1H NMR: −0.08 (s, 9H); 0.90 (t, J=8.0 Hz, 2H); 3.73 (t, J=8.0 Hz, 2H); 5.91 (s, 2H); 7.41 (t, J=7.8 Hz, 2H); 7.77 (m, 1H); 8.22 (broad s, 1H) 8.42 (dd, J=8.3, 1.5 Hz, 1H) 8.72 (d, J=8.3 Hz, 1H) 10.13 (s, 1H).

reactant | 3-bromo-5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde | 780 mg | BrC1=NNC2=C1N=C(C=1C=C(C=CC21)C=O)C2=C(C=CC=C2F)F | C17H8BrF2N3O
reactant | water | O | H2O
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.75 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | diisopropylethylamine | 2.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 3-bromo-5-(2,6-difluorophenyl)-1-(2-trimethylsilanylethoxymethyl)-1H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde | 545 mg | BrC1=NN(C2=C1N=C(C=1C=C(C=CC21)C=O)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C23H22BrF2N3O2Si
